US07626034B2
Ru(OCOCH3)2((R)-dm-binap)(5.5 mg, 0.058 mmol), ethyl 5-methyl-3-oxo-hexanoate (500 mg, 2.903 mmol), ammonium acetate (224 mg, 2.903 mmol) and ethanol (2.5 mL) were placed in a 2.5 mL-stainless autoclave under atmosphere of nitrogen, and the mixture was further stirred under a hydrogen pressure of 3 MPa at 80° C. for 15 hours. After completion of the reaction, the solvent was removed by evaporation in vacuo and the residue was purified by column chromatography on silica gel (eluent:hexane ethyl acetate/triethylamine=50/50/5) to give ethyl (−)-3-amino-5-methylhexanoate (175 mg) as a colorless oil in 35.0% yield. The resulting ethyl (−)-3-amino-5-methylhexanoate was converted into ethyl 3-(4-nitrobenzoylamino)-5-methylhexanoate, and the enantiomeric excess of the product was found to be 97.3% ee by HPLC analysis using a CHIRALCEL OD-H column.

reactant | ethyl 5-methyl-3-oxo-hexanoate | 2.903 mmol, 500 mg | CC(CC(CC(=O)OCC)=O)C | C9H16O3
reactant | ammonium acetate | 2.903 mmol, 224 mg | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | ethyl (−)-3-amino-5-methylhexanoate | 175 mg, 35.0% yield | NC(CC(=O)OCC)CC(C)C | C9H19NO2
